US07754737B2
A solution of 2-bromophenol (5 mL, 47 mmol), imidazole (8 g, 118 mmol) and tert-butyldimethylsilyl chloride (8.6 g, 57 mmol) in DMF (50 mL) was stirred at rt overnight. The reaction was treated with water (150 mL) and extracted with Et2O (4×25 mL). The organic phase was washed with 50% aq lithium chloride solution twice, dried over MgSO4 and filtered. The solvent was evaporated and the crude product was purified by filtration through silica gel, washing with 1:1 EtOAc/hexanes to afford bromo-2-[(tert-butyl)dimethylsiloxy]benzene (13.4 g, 99%).

reactant | 2-bromophenol | 47 mmol, 5 mL | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | imidazole | 118 mmol, 8 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 57 mmol, 8.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 150 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | bromo-2-[(tert-butyl)dimethylsiloxy]benzene | 13.4 g, 99% | BrC1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C | C12H19BrOSi
